US03985760
b. 4-Chloro-3-methyl-6-phenylisoxazolo[5,4-b]pyridine
6.8 g. of 3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-ol (0.03 mol.) are refluxed in 60 ml. of phosphorous oxychloride for 3 hours. the excess phosphorous oxychloride is removed in vacuo and the oily residue is treated with ice water. The compound becomes solid. The compound is extracted with chloroform, washed with an aqueous sodium carbonate solution (10%) and again with water. Evaporation of the dried (Na2SO4) and charcoal treated chloroform extract provides 6.3 g. (86%) of 4-chloro-3-methyl-6-phenylisoxazolo[5,4-b]-pyridine which is recrystallized from ligroin and melts at 130°-131°.

reactant | 3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-ol | 0.03 mol | CC1=NOC=2N=C(C=C(C21)O)C2=CC=CC=C2 | C13H10N2O2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-methyl-6-phenylisoxazolo[5,4-b]pyridine | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)ON=C2C | C13H9ClN2O
